* Subcircuit LVDS_Drvr
.subckt LVDS_Drvr /vdd /din /din_bar /vob /voa /vocm /vbias 
* c:\fossee\esim\library\subcircuitlibrary\lvds_drvr\lvds_drvr.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
* u2  /vocm ic
*.ic v(/vocm)=2.5
m15 net-_m1-pad1_ net-_m10-pad1_ /vdd /vdd CMOSP W=90u L=0.8u M=1
m11 net-_m11-pad1_ net-_m11-pad2_ /vdd /vdd CMOSP W=4.5u L=0.8u M=1
m6 net-_m10-pad1_ net-_m10-pad1_ /vdd /vdd CMOSP W=4.5u L=0.8u M=1
m5 net-_m11-pad2_ net-_m11-pad2_ /vdd /vdd CMOSP W=4.5u L=0.8u M=1
m1 net-_m1-pad1_ /din /vob /vob CMOSN W=92u L=0.2u M=1
m2 net-_m1-pad1_ /din_bar /voa /voa CMOSN W=92u L=0.2u M=1
m3 /vob /din_bar net-_m16-pad1_ net-_m16-pad1_ CMOSN W=105u L=0.2u M=1
m4 /voa /din net-_m16-pad1_ net-_m16-pad1_ CMOSN W=105u L=0.2u M=1
m16 net-_m16-pad1_ net-_m11-pad1_ gnd gnd CMOSN W=56u L=0.8u M=1
m12 net-_m11-pad1_ net-_m11-pad1_ gnd gnd CMOSN W=56u L=0.8u M=1
m7 net-_m11-pad2_ /voa net-_m13-pad1_ net-_m13-pad1_ CMOSN W=145u L=0.8u M=1
m8 net-_m10-pad1_ /vocm net-_m13-pad1_ net-_m13-pad1_ CMOSN W=145u L=0.8u M=1
m10 net-_m10-pad1_ /vocm net-_m10-pad3_ net-_m10-pad3_ CMOSN W=145u L=0.8u M=1
m9 net-_m11-pad2_ /vob net-_m10-pad3_ net-_m10-pad3_ CMOSN W=145u L=0.8u M=1
m13 net-_m13-pad1_ /vbias gnd gnd CMOSN W=4.5u L=0.8u M=1
m14 net-_m10-pad3_ /vbias gnd gnd CMOSN W=4.5u L=0.8u M=1
* u2  /vocm ic
* Control Statements

.ends LVDS_Drvr